US06713471B1
Cyclopropyldiphenylmethanol (500 mg, 2.23 mmol) was dissolved in 1M HCl in i-PrOH (4.0 mL). The reaction mixture was then heated at 60° C. for 1 h. The reaction was cooled 20° C. and diluted with Et2O (100 mL). The organic solution was successively washed with H2O, NaHCO3 saturated aqueous solution and brine. It was then dried over MgSO4, filtered, concentrated in vacuo and chromatographed on a silica gel column by elution with Hexanes to give 4-Chloro-1,1-diphenyl-1-butene (506 mg, 93%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ2.59 (q, 2H, J=6.9 Hz), 3.58 (t, 2H, J=6.9 Hz), 6.12 (t, 1H, J=7.3 Hz), 7.16-7.42 (m, 10H) ppm.

reactant | Cyclopropyldiphenylmethanol | 2.23 mmol, 500 mg | C1(CC1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O
reactant | HCl | 1M | Cl | ClH
solvent | i-PrOH | 4.0 mL | CC(C)O | C3H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 4-Chloro-1,1-diphenyl-1-butene | 506 mg, 93% | ClCCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15Cl
